US07772226B2
(f) t-Butyl 4-[7-(2-chlorophenyl)-1-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylate
t-Butyl 4-[7-(2-chlorophenyl)-3-(2,2-dimethylpropionyloxy methyl)-1-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylate was dissolved in a mixture of 10 ml of methanol and 20 ml of tetrahydrofuran, and 200 mg of sodium hydride was added thereto. The resulting mixture was stirred at room temperature overnight. 1N hydrochloric acid was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then filtered. The filtrate was concentrated. The residue was suspended in ether and the mixture was filtered. Thus, 450 mg of the title compound was obtained.

reactant | t-Butyl 4-[7-(2-chlorophenyl)-3-(2,2-dimethylpropionyloxy methyl)-1-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylate | ClC1=C(C=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)C)=O)COC(C(C)(C)C)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C27H35ClN6O6
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | t-Butyl 4-[7-(2-chlorophenyl)-1-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylate | 450 mg | ClC1=C(C=CC=C1)N1C(=NC=2NC(N(C(C12)=O)C)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C21H25ClN6O4
